US06995263B2
a] 4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester [Following a procedure of K. Inada and N. Miyaura, Tetrahedron (2000), 56, 8661–8664]
To a solution of bis(triphenylphosphine)palladium(II)chloride (0.84 g, 1.2 mmol), methyl 6-chloro-4-(trifluoromethyl)nicotinate (9.58 g, 40 mmol) and 4-(trifluoromethyl) benzene boronic acid (10.1 g, 52 mmol) in degassed toluene (200 ml) was added aqueous 2 M K3PO4 (40 ml). The suspension was stirred at 80° C. for 16 h. The reaction mixture was cooled to RT, ice water was added and the mixture was extracted three times with diethyl ether. The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated. Purification by flash-chromatography on silica gel (dichloromethane/heptane 2:1 to 1:1) gave 9.91 g (28.3 mmol, 71%) of the title compound as off-white powder.

reactant | methyl 6-chloro-4-(trifluoromethyl)nicotinate | 40 mmol, 9.58 g | ClC1=NC=C(C(=O)OC)C(=C1)C(F)(F)F | C8H5ClF3NO2
reactant | 4-(trifluoromethyl) benzene boronic acid | 52 mmol, 10.1 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | K3PO4 | 2 M, 40 ml | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II)chloride | 1.2 mmol, 0.84 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | 28.3 mmol, 9.91 g, 71% | COC(C1=CN=C(C=C1C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C15H9F6NO2
